US09227985B2
N-{[7-(3,5-Dimethylisoxazol-4-yl)-2-oxo-4-pyridin-2-yl-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-4-yl]methyl}acetamide (10 mg, 0.02 mmol) was dissolved in tetrahydrofuran (1 mL) and concentrated hydrochloric acid (200 μL, 6 mmol) in water (800 μL). The reaction was heated to 100° C. for 4 h and was then purified without workup by prep HPLC on a C-18 column eluting a water:acetonitrile gradient buffered at pH 2 with TFA to give 4-(aminomethyl)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one as off white solid (0.0045 g, 40%). LCMS calculated for C20H20N5O3 (M+H)+: m/z=378.1. found: 378.1. 1H NMR (400 MHz, DMSO-d6) δ 11.40 (s, 1H), 8.68-8.58 (m, 1H), 8.20 (bs, 2H), 7.84 (td, J=7.8, 1.8 Hz, 1H), 7.48-7.37 (m, 1H), 7.16 (d, J=8.0 Hz, 1H), 6.91 (d, J=8.0 Hz, 1H), 6.84 (d, J=8.0 Hz, 1H), 4.73 (d, 1H), 4.41 (d, 1H), 4.12-3.97 (m, 1H), 3.75-3.58 (m, 1H), 2.18 (s, 3H), 2.00 (s, 3H).

reactant | N-{[7-(3,5-Dimethylisoxazol-4-yl)-2-oxo-4-pyridin-2-yl-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-4-yl]methyl}acetamide | 0.02 mmol, 10 mg | CC1=NOC(=C1C1=CC=C2C=3N(C(COC31)(C3=NC=CC=C3)CNC(C)=O)C(N2)=O)C | C22H21N5O4
reactant | hydrochloric acid | 6 mmol, 200 μL | Cl | ClH
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | water | 800 μL | O | H2O
product | 4-(aminomethyl)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | NCC1(COC2=C3N1C(NC3=CC=C2C=2C(=NOC2C)C)=O)C2=NC=CC=C2 | C20H19N5O3
